US06720320B2
7-Methoxy-2-(5-methyl-1,3,4-oxadiazol-2-yl)benzo(b)furan (2 g) was dissolved in dichloromethane (50 ml) and boron tribromide (2 ml) was added dropwise with stirring at −8° C. The mixture was then stirred for 1 hr under ice-cooling and the reaction mixture was poured into ice water and extracted with chloroform. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure to give red crystals (1.5 g) of 7-hydroxy-2-(5-methyl-1,3,4-oxadiazol-2-yl)benzo(b)furan. This compound and (S)-glycidyl nosylate (2 g) were dissolved in DMF (100 ml) and potassium carbonate (11 g) was added. The mixture was stirred at 50° C. for 2 hr. The reaction mixture was poured into ice water and extracted with ethyl acetate. The organic layer was washed with saturated aqueous ammonium chloride solution, dried over anhydrous sodium sulfate and concentrated under reduced pressure to give an oily product (2 g). The oily product and 4-(naphthalen-1-yl)piperidine were dissolved in methanol (20 ml) and the mixture was refluxed under heating for 1 hr. After cooling, the solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (chloroform/methanol) to give the title compound (1.0 g) as a pale-yellow oil.

reactant | 7-Methoxy-2-(5-methyl-1,3,4-oxadiazol-2-yl)benzo(b)furan | 2 g | COC1=CC=CC2=C1OC(=C2)C=2OC(=NN2)C | C12H10N2O3
reactant | boron tribromide | 2 ml | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 7-hydroxy-2-(5-methyl-1,3,4-oxadiazol-2-yl)benzo(b)furan | 1.5 g | OC1=CC=CC2=C1OC(=C2)C=2OC(=NN2)C | C11H8N2O3
